US05734069
A. Preparation of 2-cyanoethyl-2-hydroxyethylmethylamine
1000.0 grams (13.31 moles) of 2-methylaminoethanol was placed in a 3000 milliliter 3-neck flask equipped with a stirrer, a condenser, an addition funnel, and a thermometer. 50.0 grams of distilled water was charged to the flask, and 705.4 grams (13.31 moles) of acrylonitrile was charged to the addition funnel (875.2 ml). The acrylonitrile was added dropwise slowly over 55 minutes, during which time the flask was air-cooled and the contents of the flask increased in temperature to about 75° C. The maximum temperature of the flask contents during the addition of the acrylonitrile was about 81° C. After the addition of acrylonitrile was completed, the flask contents were held at 75° C. while agitation was continued for another 2.75 hours. The contents were then allowed to cool to room temperature. The flask was then heated to 80° C. under 5 mm Hg vacuum, to remove residual water and acrylonitrile. The flask contents then comprised 1697.8 grams of product; GC analysis showed that 96.4% of this was the desired reaction product.

reactant | 2-methylaminoethanol | 13.31 moles, 1000.0 grams | CNCCO | C3H9NO
reactant | acrylonitrile | 13.31 moles, 705.4 grams | C(C=C)#N | C3H3N
solvent | water | 50.0 grams | O | H2O
product | 2-cyanoethyl-2-hydroxyethylmethylamine | C(#N)CCN(C)CCO | C6H12N2O
